US06066672
To a solution of pyridine--sulfur trioxide complex (5.1 g, 32 mmol) in dimethyl sulfoxide (20 ml)--dichloromethane (20 ml) was added dropwise a solution of (S)-N-(tert-butoxycarbonyl)-isoleucinol (1.4 g, 6.5 mmol) and triethylamine (3.2 g, 32 mmol) in dimethyl sulfoxide (20 ml)--dichloromethane (20 ml) under an argon gas stream and ice-cooling. After stirring for 30 minutes, the reaction solution was poured into water, and extracted with dichloromethane. The organic layer was washed with a saturated aqueous citric acid solution, an aqueous sodium bicarbonate solution, water and an aqueous sodium chloride solution, successively. After drying over sodium sulfate, the solvent was evaporated under reduced pressure to give (2S,3S)-2-(tert-butoxycarbonylamino)-3-methylpentanal (1.3 g).

reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | dichloromethane | 20 ml | ClCCl | CH2Cl2
reactant | (S)-N-(tert-butoxycarbonyl)-isoleucinol | 6.5 mmol, 1.4 g | C(C)(C)(C)OC(=O)N[C@@H]([C@@H](C)CC)CO | C11H23NO3
reactant | triethylamine | 32 mmol, 3.2 g | C(C)N(CC)CC | C6H15N
reactant | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dimethyl sulfoxide | 20 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 20 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | (2S,3S)-2-(tert-butoxycarbonylamino)-3-methylpentanal | 1.3 g | C(C)(C)(C)OC(=O)N[C@H](C=O)[C@H](CC)C | C11H21NO3
